US07425642B2
(1-Allyl-4-phenyl-1H-imidazole-2-yl)(4-methylphenyl)methanone
Potassium t-butoxide (2.59 g, 23.1 mmol) was dissolved in DMF (100 ml), and thereto was added 4-phenyl-1H-imidazole (3.00 g, 21 mmol) with stirring. The mixture was stirred at room temperature for 30 minutes, and thereto was added allyl bromide (3.50 g, 31.5 mmol). The mixture was stirred at 40° C. for 4 hours. To the reaction solution was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water and saturated saline, dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The resulting residue was dissolved in pyridine (24 ml), and thereto were added successively triethylamine (17.9 g, 17.7 mmol) and 4-toluoyl chloride (3.7 g, 16.3 mmol), and the mixture was stirred at 60° C. for 5 hours. To the reaction solution was added water (50 ml), and the mixture was extracted with ethyl acetate. The organic layer was washed with water, 1N diluted hydrochloric acid, and saturated saline, and dried over magnesium sulfate. Then, the solvent was evaporated under reduced pressure, and the resulting residue was purified by silica gel column chromatography to give the title compound (760 mg, 30%).

reactant | Potassium t-butoxide | 23.1 mmol, 2.59 g | CC(C)([O-])C.[K+]
reactant | 4-phenyl-1H-imidazole | 21 mmol, 3.00 g | C1(=CC=CC=C1)C=1N=CNC1 | C9H8N2
reactant | allyl bromide | 31.5 mmol, 3.50 g | C(C=C)Br | C3H5Br
reactant | triethylamine | 17.7 mmol, 17.9 g | C(C)N(CC)CC | C6H15N
reactant | 4-toluoyl chloride | 16.3 mmol, 3.7 g | C1(=CC=C(C=C1)C(=O)Cl)C | C8H7ClO
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | water | 50 ml | O | H2O
product | (1-Allyl-4-phenyl-1H-imidazole-2-yl)(4-methylphenyl)methanone | 760 mg, 30% | C(C=C)N1C(=NC(=C1)C1=CC=CC=C1)C(=O)C1=CC=C(C=C1)C | C20H18N2O
